US07381567B2
4,4,5,5,6,6,6-Heptafluoro-1-(2-naphthyl)-1,3-hexanedione
The compound was synthesized according to example 1 using 2-acetylnaphthalene and ethyl heptafluorobutyrate as starting materials. The product was crystallized from petroleum ether. 1H NMR (CDCl3): 6.76 (s, 1 H); 7.57-7.66 (m, 2H); 7.90 (bd, 1 H); 7.93-7.94 (m, 2H); 7.98 (bd, 1 H); 8.53 (s, 1H). IR (film): 1602 (C═O); 1232 (C—F).

reactant | 2-acetylnaphthalene | C(C)(=O)C1=CC2=CC=CC=C2C=C1 | C12H10O
reactant | ethyl heptafluorobutyrate | FC(C(C(C(=O)OCC)(F)F)(F)F)(F)F | C6H5F7O2
product | 4,4,5,5,6,6,6-Heptafluoro-1-(2-naphthyl)-1,3-hexanedione | FC(C(CC(=O)C1=CC2=CC=CC=C2C=C1)=O)(C(C(F)(F)F)(F)F)F | C16H9F7O2
